US07115611B2
B] 4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid
The solutions of 3.6 g (10.7 mmol) of 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester (example 27D]) in 40 ml of ethanol and of 1.07 g (26.7 mmol) of sodium hydroxide in 5 ml of H2O were mixed and then refluxed for 1 hour. After cooling to ambient temperature, 6.7 ml of 4N aqueous hydrochloric acid was added. The reaction mixture was extracted with three portions of ethyl acetate. The combined organic phases were washed with water and brine and dried over anhydrous sodium sulfate. The 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid crystallized upon concentrating the solution by evaporation. After cooling in an ice bath, 3.08 g of white crystals were obtained (84% of theory).

reactant | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid ethyl ester | 10.7 mmol, 3.6 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C17H15F3N2O2
reactant | sodium hydroxide | 26.7 mmol, 1.07 g | [OH-].[Na+]
reactant | hydrochloric acid | 4N, 6.7 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | H2O | 5 ml | O | H2O
product | 4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid | 3.08 g | C1(CC1)C1=NC(=NC=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2O2
